US07960562B2
Iron powder was added to an acetic acid solution of benzyl 2-methyl-3-nitrobenzoate, followed by stirring at room temperature for 1.5 hours. The insoluble matter was separated by filtration, and the filtrate was concentrated under reduced pressure. This was diluted with ethyl acetate, neutralized with an aqueous saturated sodium hydrogencarbonate solution, and the insoluble matter was separated by filtration. The filtrate was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. Ethyl acetate was added and a solution of 4 M hydrogen chloride/ethyl acetate was dropwise added thereto at 0° C. The precipitate was collected by filtration to obtain benzyl 3-amino-2-methylbenzoate.

reactant | benzyl 2-methyl-3-nitrobenzoate | CC1=C(C(=O)OCC2=CC=CC=C2)C=CC=C1[N+](=O)[O-] | C15H13NO4
catalyst | Iron | [Fe] | Fe
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | benzyl 3-amino-2-methylbenzoate | NC=1C(=C(C(=O)OCC2=CC=CC=C2)C=CC1)C | C15H15NO2
